US06002008
N-{3-Cyano-4-[(3-ethynylphenyl)amino]-6-quinolinyl}-2-butynamide
Dissolved 370 mg (4.40 mmol) 2-butynoic acid in 20 ml THF under N2 and chilled to 0° C. Added 484 1 (4.40 mmol) N-methylmorpholine and 572 μl (4.40 mmol) isobutyl chloroformate and stirred for 10 minutes. Added a solution of 500 mg (1.76 mmol) 6-amino-4-[(3-ethynylphenyl)amino]-quinoline-3-carbonitrile in 1 ml DMF and ml THF. Removed ice bath at 15 minutes and stirred overnight at 25° C. Stripped solvent, slurried residue with water, collected solids, and dried in vacuo. Boiled in ethyl acetate, collected solids and dried in vacuo, giving 494 mg of yellow solid: mass spectrum (electrospray m/e): M+H=350.9.

reactant | 2-butynoic acid | 4.40 mmol, 370 mg | C(C#CC)(=O)O | C4H4O2
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 4.40 mmol, 572 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-amino-4-[(3-ethynylphenyl)amino]-quinoline-3-carbonitrile | 1.76 mmol, 500 mg | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)C#C | C18H12N4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-{3-Cyano-4-[(3-ethynylphenyl)amino]-6-quinolinyl}-2-butynamide | 494 mg | C(#N)C=1C=NC2=CC=C(C=C2C1NC1=CC(=CC=C1)C#C)NC(C#CC)=O | C22H14N4O
